US07741341B2
100 mg (0.56 mmol) 3H-Imidazo[4,5-b]pyridine-2-carboxylic acid methyl ester were dissolved in 3 mL DMF. 22.6 mg (0.56 mmol) sodium hydride (60% in mineral oil) were added and the mixture was stirred 30 minutes at room temperature. 157.2 mg (0.56 mmol) 3-Bromomethyl-5-(5-Chloro-thiophen-2-yl)-isoxazole were added and the resulting mixture was stirred for 1 h at 80° C. The reaction mixture was cooled to room temperature and after the addition of a few drops of water concentrated under reduced pressure. HPLC-MS-analysis showed the presence of another isomer (ratio of isomers≈7:1). Final purification by preparative RP-HPLC (CH3CN/H2O gradient+0.05% formic acid) gave pure 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3H-imidazo[4,5-b]pyridine-2-carboxylic acid methyl ester as a brown amorphous solid.

reactant | 3H-Imidazo[4,5-b]pyridine-2-carboxylic acid methyl ester | 0.56 mmol, 100 mg | COC(=O)C1=NC=2C(=NC=CC2)N1 | C8H7N3O2
reactant | sodium hydride | 0.56 mmol, 22.6 mg | [H-].[Na+]
reactant | 3-Bromomethyl-5-(5-Chloro-thiophen-2-yl)-isoxazole | 0.56 mmol, 157.2 mg | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | water | a few drops | O | H2O
product | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3H-imidazo[4,5-b]pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=2C(=NC=CC2)N1CC1=NOC(=C1)C=1SC(=CC1)Cl | C16H11ClN4O3S
